US04889851
A suspension of 2-(4-chlorophenyl)-6-hydroxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (15.33 g), potassium carbonate (7.50 g) and 2-iodopropane (5.43 ml) in N,N-dimethylformamide (150 ml) was stirred for 2 hours at 60° C. The mixture was poured into ice water. The separated solid was collected by filtration, dried, and recrystallized from ethanol to yield 2-(4-chlorophenyl)-6-isopropoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide (13.54 g) as a white crystal.

reactant | 2-(4-chlorophenyl)-6-hydroxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 15.33 g | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)O)(=O)=O | C14H11ClN2O4S
reactant | potassium carbonate | 7.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 5.43 ml | IC(C)C | C3H7I
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 2-(4-chlorophenyl)-6-isopropoxy-4-methyl-2H-1,2,4-benzothiadiazine-3(4H)-one 1,1-dioxide | 13.54 g | ClC1=CC=C(C=C1)N1S(C2=C(N(C1=O)C)C=C(C=C2)OC(C)C)(=O)=O | C17H17ClN2O4S
